US07371743B2
(d) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-propyl]-3-methyl-4-(morpholin-3-on-4-yl)-benzamide
Prepared analogously to Example 1f from 3-methyl-4-(morpholin-3-on-4-yl)-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-propylamine, TBTU and DIPEA in THF.

reactant | 3-methyl-4-(morpholin-3-on-4-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1C(COCC1)=O | C12H13NO4
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-propylamine | ClC1=CC2=C(NC(=N2)[C@H](CC)N)C=C1 | C10H12ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-propyl]-3-methyl-4-(morpholin-3-on-4-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](CC)NC(C2=CC(=C(C=C2)N2C(COCC2)=O)C)=O)C=C1 | C22H23ClN4O3
